US07375126B2
4-(2,5-Dioxopyrrolidin-1-yl-oxycarbonylamino)-indazole-1-carboxylic acid methyl ester (5.57 g, 16.8 mmol) was added to a solution of 4-piperidin-1-ylindan-1-ylamine (3.81 g, 17.6 mmol) and DIPEA (3.0 mL, 17.2 mmol) in DMF (80 mL) under nitrogen atmosphere at ambient temperature. After 30 minutes the reaction solution was diluted with water (350 mL), the resulting beige precipitate was filtered off, washed with water and air-dried. The wet cake was added to a solution of methanol (200 mL), water (3 mL) and TEA (7.0 mL, 50.2 mmol). The mixture was refluxed for 90 minutes, cooled to room temperature, diluted with water (200 mL), collected the beige precipitate by filtration, rinsed with water and air-dried. The wet cake was vacuum dried to constant weight, yielding 1-(1H-indazol-4-yl)-3-(4-piperidin-1-ylindan-1-yl)-urea (5.89 g, 93%) as a beige solid. MS (ESI) m/z: 376.00 [M+H]+. 1H NMR (DMSO-d6) δ: 1.56 (m, 2H), 1.65 (m, 4H), 1.78 (m, 1H), 2.44 (m, 1H), 2.77 (m, 1H), 2.85 (m, 3H), 2.95 (m, 2H), 5.16 (q, 1H), 6.66 (d, 1H), 6.81 (d, 1H), 6.95 (d, 1H), 7.07 (d, 1H), 7.22 (m, 2H), 7.68 (d, 1H), 8.05 (s, 1H), 8.62 (s, 1H), 13.00 (s, 1H). Anal Calcd for C22H25N5O: C, 70.38; H, 6.71; N, 18.65. Found: C, 70.24; H, 6.72; N, 18.47.

reactant | 4-(2,5-Dioxopyrrolidin-1-yl-oxycarbonylamino)-indazole-1-carboxylic acid methyl ester | 16.8 mmol, 5.57 g | COC(=O)N1N=CC2=C(C=CC=C12)NC(=O)ON1C(CCC1=O)=O | C14H12N4O6
reactant | 4-piperidin-1-ylindan-1-ylamine | 17.6 mmol, 3.81 g | N1(CCCCC1)C1=C2CCC(C2=CC=C1)N | C14H20N2
reactant | DIPEA | 17.2 mmol, 3.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanol | 200 mL | CO | CH4O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 350 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | 1-(1H-indazol-4-yl)-3-(4-piperidin-1-ylindan-1-yl)-urea | 5.89 g, 93% | N1N=CC2=C(C=CC=C12)NC(=O)NC1CCC2=C(C=CC=C12)N1CCCCC1 | C22H25N5O
